US09227978B2
4-Chloro-2-methoxy-1-nitrobenzene
To a solution of 5-chloro-2-nitrophenol (40 g, 0.23 mol) in DMF (200 mL), K2CO3 (47.6 g, 0.345 mol) and iodomethane (49 g, 0.345 mol) were added and the resulting mixture was stirred at room temperature for 16 h. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether) to afford the desired product (30 g, 70% yield).

reactant | 5-chloro-2-nitrophenol | 0.23 mol, 40 g | ClC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | K2CO3 | 0.345 mol, 47.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 0.345 mol, 49 g | IC | CH3I
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-methoxy-1-nitrobenzene | 30 g, 70% yield | ClC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
